US08685970B2
A mixture of 4-chloro-2-aminopyridine (19.3 g, 0.150 mol), K2CO3 (41.7 g, 0.30 mol) and pyrrolidine (32.0 g, 0.45 mol) in DMSO (150 mL) was stirred at 190° C. for 10 hours. After cooling to room temperature, water (300 mL) was added and extracted with ethyl acetate (150 mL×4). The combined organic layers were washed with water (25 mL×3), dried over Na2SO4 and concentrated in vacuo, the residue was purified by silica gel chromatography (10:1 ethyl acetate/petroleum ether) to obtain 6-(pyrrolidin-1-yl)pyridin-2-amine (9.0 g, 37% yield).

reactant | 4-chloro-2-aminopyridine | 0.150 mol, 19.3 g | ClC1=CC(=NC=C1)N | C5H5ClN2
reactant | K2CO3 | 0.30 mol, 41.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | pyrrolidine | 0.45 mol, 32.0 g | N1CCCC1 | C4H9N
reactant | water | 300 mL | O | H2O
solvent | DMSO | 150 mL | CS(=O)C | C2H6OS
product | 6-(pyrrolidin-1-yl)pyridin-2-amine | 9.0 g, 37% yield | N1(CCCC1)C1=CC=CC(=N1)N | C9H13N3
